US04137325
2-nitro-6-pyrrolidinylbenzonitrile is prepared from pyrrolidine and 2,6-dinitrobenzonitrile as in example 10, m.p. 110°-112° C.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-nitro-6-pyrrolidinylbenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)N1CCCC1 | C11H11N3O2
